US09293712B2
To a solution of 1,6-dibromopyrene (5.4 g, 15.0 mmol), [1,1′-biphenyl]-3-ylboronic acid (3.3 g, 16.5 mmol), and K2CO3 (10.4 g, 75.0 mmol) in 1,4-dioxane (320 mL) and water (50 mL) was bubbled with nitrogen for 15 min. Pd(PPh3)4 (0.87 g, 0.75 mmol) was then added to the mixture. The mixture was bubbled with nitrogen for 15 min. The resultant mixture was refluxed for 19 h. The reaction mixture was then extracted by DCM. The extracts were dried over MgSO4 and the solvent was removed in vacuo. The residue was purified by flash chromatography using 15% DCM/hexane (containing 0.25% triethylamine) to yield 1-([1,1′-biphenyl]-3-yl)-6-bromopyrene (4.5 g, 70% yield) as a white solid.

reactant | 1,6-dibromopyrene | 15.0 mmol, 5.4 g | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)Br | C16H8Br2
reactant | [1,1′-biphenyl]-3-ylboronic acid | 16.5 mmol, 3.3 g | C1(=CC(=CC=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | K2CO3 | 75.0 mmol, 10.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 320 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.75 mmol, 0.87 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-([1,1′-biphenyl]-3-yl)-6-bromopyrene | 4.5 g, 70% yield | C1(=CC(=CC=C1)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)Br)C3=CC=CC=C3 | C28H17Br
